US07981886B2
1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-[4-(4-methoxy-benzothiazole-2-carbonyl)-piperidin-1-yl]-ethanone
A mixture of (4-methoxy-benzothiazol-2-yl)-piperidin-4-yl-methanone (333 mg, 1.2 mmol) and 2-chloro-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethanone (256 mg, 1.2 mmol) in DMF (4 ml) was treated with DIPEA (199 ul, 1.2 mmol) and the mixture was stirred at RT overnight. The mixture was poured on water and extracted with EtOAc. The organic layers were dried over MgSO4 and concentrated. Chromatography on SiO2 (hex/EtOAc 1:1, EtOAc) and crystallisation from ether gave 350 mg (65%) of title compound as a yellowish solid.

reactant | (4-methoxy-benzothiazol-2-yl)-piperidin-4-yl-methanone | 1.2 mmol, 333 mg | COC1=CC=CC2=C1N=C(S2)C(=O)C2CCNCC2 | C14H16N2O2S
reactant | 2-chloro-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethanone | 1.2 mmol, 256 mg | ClCC(=O)C1=CC2=C(OCCO2)C=C1 | C10H9ClO3
reactant | DIPEA | 1.2 mmol, 199 ul | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-[4-(4-methoxy-benzothiazole-2-carbonyl)-piperidin-1-yl]-ethanone | 350 mg, 65% | O1CCOC2=C1C=CC(=C2)C(CN2CCC(CC2)C(=O)C=2SC1=C(N2)C(=CC=C1)OC)=O | C24H24N2O5S
